US04900472
A mixture of 60 g of 5-(4-methoxyphenyl)-2-(4-nonylphenyl)pyrimidine, 240 g of hydrobromic acid and one liter of acetic acid was refluxed for 40 hours. After a large portion of acetic acid was distilled away, the residue was added to a solution of 2N sodium hydroxide. The obtained crystals were recrystallized from ethyl acetate, and 32.6 g of 5-(4-hydroxyphenyl)-2-(4-nonylphenyl)pyrimidine was obtained. This compound showed liquid crystal property and its phase transition temperatures were 98.4° C. at C--SA phase and 138.6° C. at SA --I phase.

reactant | 5-(4-methoxyphenyl)-2-(4-nonylphenyl)pyrimidine | 60 g | COC1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C=C1)CCCCCCCCC | C26H32N2O
reactant | hydrobromic acid | 240 g | Br | BrH
solvent | acetic acid | one liter | C(C)(=O)O | C2H4O2
product | 5-(4-hydroxyphenyl)-2-(4-nonylphenyl)pyrimidine | 32.6 g | OC1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C=C1)CCCCCCCCC | C25H30N2O
